US06956049B1
2,4-Dibromo-1,3-thiazole (2.0 g, 8.2 mmol) and CuI (312 mg, 1.64 mmol) were combined in DME (25 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (5.7 mL, 41 mmol) and PdCl2(PPh3)2 (580 mg, 0.82 mmol) were added, and then phenylacetylene (0.90 mL, 8.6 mmol) was added dropwise. The reaction was stirred for 4 h at ambient temperature at which point GC/MS analysis showed the reaction to be complete. The mixture was filtered through Celite™, the filter pad was washed thoroughly with Ethyl acetate and the combined filtrates were then concentrated in vacuo. The residue was dissolved in ethyl acetate (200 mL), washed with water (200 mL), brine (200 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane, then 97:3 hexane:ethyl acetate to afford pure 4-bromo-2-(phenylethynyl)-1,3-thiazole (1.0 g, 46% yield) as a colorless solid. M.p. 79–82° C.; 1H NMR (CDCl3, 300 MHz) δ 7.60–7.56 (m, 2H) 7.45–7.26 (m, 3H), 7.26 (s, 1H). MS (EI ionization) 263 (M+, 79Br), 265 (M+, 81Br).

reactant | 2,4-Dibromo-1,3-thiazole | 8.2 mmol, 2.0 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | Triethylamine | 41 mmol, 5.7 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 8.6 mmol, 0.90 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | hexane | CCCCCC | C6H14
solvent | DME | 25 mL | COCCOC | C4H10O2
catalyst | CuI | 1.64 mmol, 312 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.82 mmol, 580 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-(phenylethynyl)-1,3-thiazole | 1.0 g, 46% yield | BrC=1N=C(SC1)C#CC1=CC=CC=C1 | C11H6BrNS
